US07253196B2
5-ethyl-2-[(2-methylphenyl)amino]-1,3-thiazol-4(5H)-one
Synthesis was performed from N-(2-methylphenyl)thiourea and 2-bromo-butyric acid according to Method C1.

reactant | N-(2-methylphenyl)thiourea | CC1=C(C=CC=C1)NC(=S)N | C8H10N2S
reactant | 2-bromo-butyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 5-ethyl-2-[(2-methylphenyl)amino]-1,3-thiazol-4(5H)-one | C(C)C1C(N=C(S1)NC1=C(C=CC=C1)C)=O | C12H14N2OS
